US07091214B2
Isopropyl isocyanate (0.29 mL, 3.1 mmol) was added slowly to a suspension of 1-(2-aminoethyl)-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine (1.13 g, 3.1 mmol) in chloroform (113 mL). A precipitate formed within 15 minutes, was isolated by filtration, and was dried overnight in an oven to provide 0.66 g of N-{2-[4-amino-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-N′-(1-methylethyl)urea as a white solid, mp 240–241° C.

reactant | Isopropyl isocyanate | 3.1 mmol, 0.29 mL | C(C)(C)N=C=O | C4H7NO
reactant | 1-(2-aminoethyl)-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.1 mmol, 1.13 g | NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)CCCC | C21H24N6
solvent | chloroform | 113 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[4-amino-2-butyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-N′-(1-methylethyl)urea | 0.66 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(=O)NC(C)C)CCCC)C=2C=NC=CC2 | C25H31N7O
